US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-chlorophenyl)-4-propylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-chlorophenyl)isoxazole (0.4 g) and propyl iodide (0.14 ml) were subjected to reaction and post-treatment in a similar manner to that described in Example 14(a) to obtain the title compound (0.21 g, 47%) as a colorless powder.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-chlorophenyl)isoxazole | 0.4 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=C(C=C1)Cl | C16H19ClN2O4
reactant | propyl iodide | 0.14 ml | C(CC)I | C3H7I
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-chlorophenyl)-4-propylisoxazole | 0.21 g, 47% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1CCC)C1=CC=C(C=C1)Cl | C19H25ClN2O4
